US04032652
A mixture of 2.12 g. of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one, 1.25 g. of p-aminothiophenol and 75 ml. of methanol is refluxed for two hours, cooled and filtered to yield 5-acetyl-4-hydroxy-3-[1-(p-mercaptophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione, m.p. 207°-210° C.

reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
reactant | p-aminothiophenol | NC1=CC=C(C=C1)S | C6H7NS
solvent | methanol | CO | CH4O
product | 5-acetyl-4-hydroxy-3-[1-(p-mercaptophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC=C(C=C1)S)O | C15H13NO5S
